US07642350B2
Method B: 6-Amino-9-benzyl-8-oxo-8,9-dihydro-7H-purine-2-carboxylic acid cyclopropylmethyl-amide
O-benzotriazol-1-yl-tetramethyluronium hexafluorophosphate (48.1 g, 126.8 mmol) was added to a solution of the product of Preparation 12, 6-amino-9-benzyl-8-oxo-8,9-dihydro-7H-purine-2-carboxylic acid (32.88 g, 115.3 mmol) and diisopropylethylamine (40.2 ml, 230.6 mmol) in dimethylacetamide (250 ml) and the reaction mixture stirred at room temperature for 1 hour. Aminomethylcyclopropane (12.5 ml, 144.1 mmol) was added and the reaction mixture stirred at room temperature for a further 20 hours. The reaction mixture was concentrated in vacuo and water added. The resultant precipitate was collected by filtration, azeotroped with toluene and triturated with methanol to yield the title compound.

reactant | O-benzotriazol-1-yl-tetramethyluronium hexafluorophosphate | 126.8 mmol, 48.1 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 6-amino-9-benzyl-8-oxo-8,9-dihydro-7H-purine-2-carboxylic acid | 115.3 mmol, 32.88 g | NC1=C2NC(N(C2=NC(=N1)C(=O)O)CC1=CC=CC=C1)=O | C13H11N5O3
reactant | diisopropylethylamine | 230.6 mmol, 40.2 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Aminomethylcyclopropane | 144.1 mmol, 12.5 ml | NCC1CC1 | C4H9N
solvent | dimethylacetamide | 250 ml | CC(=O)N(C)C | C4H9NO
product | 6-Amino-9-benzyl-8-oxo-8,9-dihydro-7H-purine-2-carboxylic acid cyclopropylmethyl-amide | C1(CC1)CNC(=O)C1=NC(=C2NC(N(C2=N1)CC1=CC=CC=C1)=O)N | C17H18N6O2
